US04782089
[3-[(Dimethylamino)methyl]-1H-indol-7-yl]phenylmethanone
An 18.0 g (0.16 mole) portion of 40% aqueous dimethylamine was cooled to 5° C. and 24 g (0.4 mole) of glacial acetic acid was added. To this mixture, held at 5° C., was added 12.2 g (0.15 mole) of 37% formalin. This aqueous mixture was added to a mixture of 33.1 g (0.15 mole) of 7-benzoyl-1H-indole and 20 ml of acetic acid. After 100 ml of absolute ethanol was added to the mixture, it was warmed on a steam bath for 1/2 hr. Isolation of the product was accomplished by concentrating the mixture under reduced pressure, partitioning between dilute sodium hydroxide and methylene chloride and concentrating the organic solution. The residue was recrystallized from isopropyl alcohol to give 29 g (70%) of light yellow crystals, m.p. 111.0°-113.5° C.

reactant | dimethylamine | CNC | C2H7N
reactant | acetic acid | 0.4 mole, 24 g | C(C)(=O)O | C2H4O2
reactant | formalin | 0.15 mole, 12.2 g | C=O | CH2O
reactant | 7-benzoyl-1H-indole | 0.15 mole, 33.1 g | C(C1=CC=CC=C1)(=O)C=1C=CC=C2C=CNC12 | C15H11NO
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | [3-[(Dimethylamino)methyl]-1H-indol-7-yl]phenylmethanone | CN(C)CC1=CNC2=C(C=CC=C12)C(=O)C1=CC=CC=C1 | C18H18N2O
